data/mechanism_extracts/JACS/10.1021_jacs.8b03302.json
{"doi": "10.1021_jacs.8b03302", "journal": "JACS", "is_review": false, "rxn_class_summary": "Visible-light photocatalytic dearomative cascade of 1-naphthol arenes bearing tethered alkenes, giving either [2+2] cycloadducts or benzocyclobutene products via catalyst-controlled sequential triplet energy transfer", "mechanism_family": ["photoredox_combined", "biradical", "concerted"], "electrochemical_role": null, "key_intermediates": [{"name": "Ir(III) triplet excited state photocatalyst (3*Ir(III), T1)", "smiles": null, "role": "reactive"}, {"name": "Triplet naphthol substrate 1a* (energy-transfer activated arene)", "smiles": null, "role": "reactive"}, {"name": "Dearomatized [2+2] cycloadduct styrene 2a (cyclobutane-fused dearomatized intermediate/product)", "smiles": null, "role": "reactive"}, {"name": "Triplet styrene 2a* (second EnT-activated intermediate, selective with PC III)", "smiles": null, "role": "reactive"}, {"name": "1,n-Diradical intermediate 4 from vinylcyclobutane C-C bond homolysis", "smiles": null, "role": "transient"}, {"name": "Benzocyclobutene product 3a (after ISC and radical-radical recombination)", "smiles": null, "role": "reactive"}], "electron_flow": "Blue-light excites Ir(III) photocatalyst to its triplet state, which transfers triplet energy to naphthol 1a giving 1a*; intramolecular [2+2] cycloaddition with the pendant alkene yields styrene 2a. With PC III (higher ET), a second EnT to 2a generates triplet 2a*, which undergoes vinylcyclobutane ring-opening to diradical 4 that ISCs and recombines to benzocyclobutene 3a.", "rate_determining_step": "Second energy transfer from 3*Ir(III) to styrene 2a (slow with PC II, fast with PC III), governing divergence between 2a and 3a", "probe_reagents": [{"name": "Stern-Volmer quencher 1a (naphthol substrate)", "smiles": null, "purpose": "redox_probe", "observation": "Both PC II and PC III are efficiently quenched by 1a (linear S-V), supporting EnT activation of 1a"}, {"name": "Stern-Volmer quencher 2a (styrene intermediate)", "smiles": null, "purpose": "redox_probe", "observation": "Only PC III is effectively quenched by 2a; PC II shows poor quenching, rationalizing catalyst-controlled divergence"}, {"name": "Thermal (dark) control", "smiles": null, "purpose": "other", "observation": "No reaction in absence of light/photocatalyst, precluding a thermal nonphotocatalytic pathway"}, {"name": "Reaction monitoring by 1H NMR", "smiles": null, "purpose": "other", "observation": "With PC II, 1a converts cleanly to 2a; with PC III, 2a forms transiently then converts to 3a, consistent with sequential EnT"}], "evidence_types_used": ["stoichiometric_intermediate", "isolation_of_intermediate", "kinetic_order", "DFT", "other"], "evidence_strength": "strong", "notes": "DFT-computed triplet energies (ET) and redox potentials of 1a (ET=59.8 kcal/mol) and 2a (ET=55.9 kcal/mol) combined with catalyst ET values (PC I 57.8, PC II 49.2, PC III 60.1 kcal/mol) rationalize catalyst-selective EnT. Crystal structures of 2a and 3a confirm connectivity/stereochemistry. The benzocyclobutene-forming step is proposed via a triplet vinylcyclobutane rearrangement (biradical 4) followed by ISC; an alternative concerted di-π-methane-like pathway is not explicitly invoked. No reaction without a carbonyl EWG on the naphthol, presumably needed to lower arene triplet energy."}
